US09255089B2
(6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone (50 mg, 0.14 mmol) was dissolved in dry THF (1.4 mL) and cooled to 0° C. Neopentylmagnesium chloride (1.0 M, 0.55 mL, 0.55 mmol) was added dropwise and the reaction was allowed to stir for 10 mins and then quenched with water. Reaction was extracted three times with EtOAc and combined organic layers were washed once with water, concentrated, and purified by reverse-phase HPLC to give 1-(6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)-3,3-dimethyl-1-(pyridin-2-yl)butan-1-ol intermediate. The intermediate was taken up in EtOH (1.5 mL) and 4.0 M HCl/dioxane and heated to 65° C. for 2 hours, concentrated and purified by reverse-phase HPLC to afford the desired product as a white powder.

reactant | (6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone | 0.14 mmol, 50 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(=N2)OCC)C1)C(=O)C1=NC=CC=C1)C | C20H18N4O3
reactant | Neopentylmagnesium chloride | 0.55 mmol, 1.0 M, 0.55 mL | C(C(C)(C)C)[Mg]Cl
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
product | 1-(6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)-3,3-dimethyl-1-(pyridin-2-yl)butan-1-ol | CC1=NOC(=C1C=1C=C(C2=C(NC(=N2)OCC)C1)C(CC(C)(C)C)(O)C1=NC=CC=C1)C | C25H30N4O3
